* buf_ppsf_bs.scs - translated from Spectre by netlist-crawler
* Library name: Analog_Bench
* Cell name: buf_ppsf_bs
* View name: schematic
.subckt buf_ppsf_bs IREF VCM VDD VIN VIP VON VOP VSS
XNM11 net20 VBN2 net15 net15 sky130_fd_pr__nfet_01v8_lvt w=3 l=0.5 m=1
XNM10 net15 VBN2 VCM VCM sky130_fd_pr__nfet_01v8_lvt w=3 l=0.5 m=1
XNM9 VBN2 VBN2 net20 net20 sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM7 IREF IREF VSS VSS sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM6 net14 IREF VSS VSS sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM5 VBP1 IREF VSS VSS sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM4 VBN1 VBN1 VCM VCM sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM8 VBP2 IREF VSS VSS sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=5
XNM0 net3 net7 VOP VOP sky130_fd_pr__nfet_01v8_lvt w=5 l=0.55 m=50
XNM2 net4 net11 VON VON sky130_fd_pr__nfet_01v8_lvt w=5 l=0.55 m=50
XNM1 VDD net8 net3 net3 sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=50
XNM3 VDD net12 net4 net4 sky130_fd_pr__nfet_01v8_lvt w=5 l=0.5 m=50
C7 net9 VON 5e-12
C6 net10 VIN 5e-12
C5 net12 VON 5e-12
C4 net11 VIN 5e-12
C3 net6 VOP 5e-12
C2 net5 VIP 5e-12
C1 net8 VOP 5e-12
C0 net7 VIP 5e-12
R7 VBP2 net9 1000000
R6 VBP1 net10 1000000
R5 VBN1 net11 1000000
R4 VBN2 net12 1000000
R3 VBP2 net6 1000000
R2 VBP1 net5 1000000
R1 VBN1 net7 1000000
R0 VBN2 net8 1000000
XPM11 VBP2 VBP2 net17 net17 sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=5
XPM10 VBN2 net14 VDD VDD sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=5
XPM9 net17 VBP2 net16 net16 sky130_fd_pr__pfet_01v8_lvt w=15 l=0.5 m=1
XPM8 net16 VBP2 VCM VCM sky130_fd_pr__pfet_01v8_lvt w=15 l=0.5 m=1
XPM7 net14 net14 VDD VDD sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=5
XPM3 VSS net9 net1 net1 sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=50
XPM5 VBP1 VBP1 VCM VCM sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=5
XPM2 net1 net10 VON VON sky130_fd_pr__pfet_01v8_lvt w=10 l=0.55 m=50
XPM1 VSS net6 net2 net2 sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=50
XPM6 VBN1 net14 VDD VDD sky130_fd_pr__pfet_01v8_lvt w=10 l=0.5 m=5
XPM0 net2 net5 VOP VOP sky130_fd_pr__pfet_01v8_lvt w=10 l=0.55 m=50
.ends buf_ppsf_bs
