* Fully-integrated external-capacitor-free LDO: 1.0 V from 1.5-1.8 V,
* 0-20 mA DC and 0.5-20 mA dynamic load.
* Architecture: symmetric current-mirror OTA (lvt-P input pair) directly
* driving a 3 mm std-pfet pass device; Miller Rz/Cm compensation across the pass
* stage; internal 30k/20k feedback divider with lead capacitor; split on-chip
* output capacitance (damped branch + direct branch); supply-independent
* beta-multiplier bias with an always-on high-value starter resistor.
.subckt capless_ldo vin vout vss vref
* bias: beta-multiplier (~8 uA) + starter
Rbs   vin  nb   750k
Rda   vin  sa   12k
Rdb   vin  sb   12k
XMPA  nb   pb   sa  vin sky130_fd_pr__pfet_01v8_lvt  l=1.0 w=22
XMPB  pb   pb   sb  vin sky130_fd_pr__pfet_01v8_lvt  l=1.0 w=22
XMN1  nb   nb   vss vss sky130_fd_pr__nfet_01v8      l=1.0 w=10
XMN2  pb   nb   ns  vss sky130_fd_pr__nfet_01v8      l=1.0 w=40
Rs    ns   vss  7.8k
* error amplifier: symmetric mirror OTA, lvt-P pair, K~3.5 mirrors
Rdt   vin  st   12k
XMPT  tail pb   st   vin  sky130_fd_pr__pfet_01v8_lvt l=1.0 w=22
XM1A  d4   vref tail tail sky130_fd_pr__pfet_01v8_lvt l=0.5 w=24
XM1B  d3   fb   tail tail sky130_fd_pr__pfet_01v8_lvt l=0.5 w=24
XM3   d3   d3   vss  vss  sky130_fd_pr__nfet_01v8     l=1.5 w=25
XM4   d4   d4   vss  vss  sky130_fd_pr__nfet_01v8     l=1.5 w=25
XM5   gate d3   vss  vss  sky130_fd_pr__nfet_01v8     l=1.5 w=88
XM6   d7   d4   vss  vss  sky130_fd_pr__nfet_01v8     l=1.5 w=88
Rd7   vin  s7   13k
Rd8   vin  s8   13k
XM7   d7   d7   s7   vin  sky130_fd_pr__pfet_01v8_lvt l=1.0 w=22
XM8   gate d7   s8   vin  sky130_fd_pr__pfet_01v8_lvt l=1.0 w=22
* pass device and Miller compensation
XMP   vout gate vin vin sky130_fd_pr__pfet_01v8 l=0.35 w=500 nf=10 m=6
Cm    gate cmx  3p
Rz    cmx  vout 2.2k
* internal feedback divider with lead capacitor
R1    vout fb   30k
Cf    vout fb   4p
R2    fb   vss 20k
* on-chip output capacitance: damped branch + direct branch (977 pF total)
Resr  vout vc1 150
C1    vc1  vss 850p
C2    vout vss 120p
.ends capless_ldo
